US06046232
Synthesis of α-(2-Ethoxyphenyl)-N-n-butylnitrone
The title compound was prepared according to the procedures described in Examples 11 using 2-ethoxybenzaldehyde and N-n-butylhydroxylamine. The title compound was isolated in 44.5% yield as a liquid.

reactant | 2-ethoxybenzaldehyde | C(C)OC1=C(C=O)C=CC=C1 | C9H10O2
reactant | N-n-butylhydroxylamine | C(CCC)NO | C4H11NO
product | α-(2-Ethoxyphenyl)-N-n-butylnitrone | C(C)OC1=C(C=CC=C1)C=[N+]([O-])CCCC | C13H19NO2
